US04218559
Octadecahydroquinoxalino[2,3-b]quinoxaline
To an ice-cold solution of 11.4 grams (0.1 mole) of 1,2-diaminocyclohexane and 5 ml of water was added dropwise 8.3 grams of 40% aqueous glyoxal (2.9 grams, 0.05 mole). Within 5-10 minutes a precipitate formed, which was allowed to stand at room temperature for one hour, then heated at 65°-70° C. for 1.5 hours. The solid was recrystallized from acetonitrile to give 1.05 grams of tan crystals, m.p. 148°-155° C.

reactant | 1,2-diaminocyclohexane | 0.1 mole, 11.4 grams | NC1C(CCCC1)N | C6H14N2
reactant | glyoxal | 0.05 mole, 8.3 grams | C(=O)C=O | C2H2O2
solvent | water | 5 ml | O | H2O
product | Octadecahydroquinoxalino[2,3-b]quinoxaline | 1.05 grams | C1CCCC2NC3C(NC4CCCCC4N3)NC12 | C14H26N4
